US07544690B2
A solution of cis-[4-(2-benzyloxycarbonylamino-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester (5.26 g, 14 mmol) in 50% TFA in CH2Cl2 (60 mL) was stirred at ambient temperature for 1 hr. The mixture was concentrated and the residue was diluted with saturated aqueous NaHCO3. The aqueous layer was extracted with CH2Cl2 (therr times). The organic layer was dried over Na2SO4 and concentrated to give cis-[2-(4-amino-cyclohexyl)-ethyl]-carbamic acid benzyl ester (3.5 g, 91%) as a colorless oil.

reactant | cis-[4-(2-benzyloxycarbonylamino-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester | 14 mmol, 5.26 g | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)CCNC(=O)OCC1=CC=CC=C1)=O | C21H32N2O4
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | cis-[2-(4-amino-cyclohexyl)-ethyl]-carbamic acid benzyl ester | 3.5 g, 91% | C(C1=CC=CC=C1)OC(NCC[C@@H]1CC[C@@H](CC1)N)=O | C16H24N2O2
